US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3(4-difluoromethoxybenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 165)
0.69 g of N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride and 1.00 g of 1-(4-difluoromethoxybenzyl)-3-(2,2,2-trifluoroethyl)thiourea were dissolved in 30 ml of toluene, and the solution was heated under reflux for 4 hours. After the reaction, toluene was evaporated under reduced pressure. The resulting oily product was purified by column chromatography silica gel; developing solvent hexane/ethyl acetate (10:1)]to give 0.80 g of the captioned compound.

reactant | N-chloromethyl-N-(4-methylphenyl)carbamoyl chloride | 0.69 g | ClCN(C(=O)Cl)C1=CC=C(C=C1)C | C9H9Cl2NO
reactant | 1-(4-difluoromethoxybenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 1.00 g | FC(OC1=CC=C(CNC(=S)NCC(F)(F)F)C=C1)F | C11H11F5N2OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,2,2-trifluoroethylimino)-3(4-difluoromethoxybenzyl)-5-(4-methylphenyl)-tetrahydro-1,3,5-thiadiazin-4-one | 0.80 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)OC(F)F)=O)C1=CC=C(C=C1)C)(F)F | C20H18F5N3O2S
